US08648066B2
To a mixture of 5-bromo-1H-pyrrolo[2,3-b]pyridine (207 mg, 1.05 mmol), sodium hydride (29 mg, 1.21 mmol) in tetrahydrofuran (5 mL) was added iodomethane (164 mg, 1.15 mol) then stirred for 2 h at room temperature. The reaction mixture was carefully quenched with water then extracted with ethyl acetate (3×). The combined organic layers were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to give 5-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine. MS (EI) for C8H7BrN2: 209, 211 (MH+, Br pattern).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 1.05 mmol, 207 mg | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | sodium hydride | 1.21 mmol, 29 mg | [H-].[Na+]
reactant | iodomethane | 1.15 mol, 164 mg | IC | CH3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-1-methyl-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)N(C=C2)C | C8H7BrN2
